US06875765B2
A mixture of 2.17 g (9.37 mmol) 1-(2-chloro-quinolin-5-yl)-2-diazo-ethanone and 20 mL methanol was brought to reflux. A solution of 0.20 g (0.87 mmol) silver benzoate in 1 mL triethylamine was added to the reaction mixture. After 10 min at reflux, TLC analysis (ethyl acetate, silica, Rf prod 0.8) showed starting material consumed. The solvent was removed under reduced pressure and the resulting black residue was purified on 100 g 230-400 mesh silica eluting with 1:1 hexanes/ethyl acetate to give 1.20 g (5.09 mmol, 55%) of (2-chloro-quinolin-5-yl)-acetic acid methyl ester as a white amorphous solid. MS (APCI) m/z 236 (M, 100% abundance), 238 (M+2, 32% abundance). 1H NMR (400 MHz) CDCl3 8.31 (d, J=8.9 Hz, 1H), 7.98 (d, J=8.5 Hz, 1H), 7.74 (m, 1H), 7.49 (d, J=7.2 Hz, 1H), 7.44 (d, J=8.9 Hz, 1H), 4.05 (s, 2H), 3.68 (s, 3H).

reactant | 1-(2-chloro-quinolin-5-yl)-2-diazo-ethanone | 9.37 mmol, 2.17 g | ClC1=NC2=CC=CC(=C2C=C1)C(C=[N+]=[N-])=O | C11H6ClN3O
reactant | methanol | 20 mL | CO | CH4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
catalyst | silver benzoate | 0.87 mmol, 0.20 g | C(C1=CC=CC=C1)(=O)[O-].[Ag+]
product | (2-chloro-quinolin-5-yl)-acetic acid methyl ester | 5.09 mmol, 1.20 g, 55% | COC(CC1=C2C=CC(=NC2=CC=C1)Cl)=O | C12H10ClNO2
